US08664214B2
5-amino-2-butylisoindolin-1-one (35.0 mg, 0.17 mmol), ZnCl2 (14.0 mg, 0.10 mmol) and NaCNBH4 (12.9 mg, 0.21 mmol) were consecutively added to a solution of 4-(trifluoromethyl)nicotinaldehyde (30.0 mg, 0.17 mmol) in MeOH (4 mL). After stirring overnight at room temperature excess water was added. The reaction mixture was extracted with EtOAc, the combined org. layers were washed with water, dried (MgSO4) and the solvent was removed in vacuo. Purification by HPLC provided 2-butyl-5-((4-(trifluoromethyl)pyridin-3-yl)methylamino)isoindolin-1-one TFA (16.0 mg, 19%). ESI-MS [M+H]+=364.2.

reactant | 5-amino-2-butylisoindolin-1-one | 0.17 mmol, 35.0 mg | NC=1C=C2CN(C(C2=CC1)=O)CCCC | C12H16N2O
reactant | 4-(trifluoromethyl)nicotinaldehyde | 0.17 mmol, 30.0 mg | FC(C1=CC=NC=C1C=O)(F)F | C7H4F3NO
reactant | water | O | H2O
solvent | MeOH | 4 mL | CO | CH4O
catalyst | ZnCl2 | 0.10 mmol, 14.0 mg | [Cl-].[Cl-].[Zn+2]
product | 2-butyl-5-((4-(trifluoromethyl)pyridin-3-yl)methylamino)isoindolin-1-one TFA | 16.0 mg, 19% | OC(=O)C(F)(F)F.C(CCC)N1C(C2=CC=C(C=C2C1)NCC=1C=NC=CC1C(F)(F)F)=O | InChI=1S/C19H20F3N3O.C2HF3O2/c1-2-3-8-25-12-13-9-15(4-5-16(13)18(25)26)24-11-14-10-23-7-6-17(14)19(20,21)22;3-2(4,5)1(6)7/h4-7,9-10,24H,2-3,8,11-12H2,1H3;(H,6,7)
